US07763639B2
1-ETHYL-4-[2-FLUORO-3-(METHYLSULFONYL)PHENYL]PIPERAZINE
Preparation according to Example 1: 1-[2-fluoro-3-(methylsulfonyl)phenyl]piperazine (0.13 g, 0.52 mmol), acetonitrile (4 ml), potassium carbonate (0.14 g, 1.1 mmol) and iodoethane (0.48 ml, 0.52 mmol). Yield: 0.09 g (60%). The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether: M.p. 214-216° C. MS m/z (relative intensity, 70 eV) 286 (M+, 59), 272 (14), 271 (87), 201 (11), 57 (bp).

reactant | 1-[2-fluoro-3-(methylsulfonyl)phenyl]piperazine | 0.52 mmol, 0.13 g | FC1=C(C=CC=C1S(=O)(=O)C)N1CCNCC1 | C11H15FN2O2S
reactant | potassium carbonate | 1.1 mmol, 0.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 0.52 mmol, 0.48 ml | ICC | C2H5I
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | 1-ETHYL-4-[2-FLUORO-3-(METHYLSULFONYL)PHENYL]PIPERAZINE | C(C)N1CCN(CC1)C1=C(C(=CC=C1)S(=O)(=O)C)F | C13H19FN2O2S
